US05523462
5,5-Biscarbethoxy-cyclohexane-1,3-dione
A solution of 14.3 g (0.047 mol) of ethyl 3,3-biscarbethoxy-5-oxo-hexanecarboxylate in 40 ml of dimethylformamide was added dropwise to a suspension of 3.6 g (0.118 mol) of 80 % strength by weight sodium hydride in 200 ml of dimethylformamide. After stirring at 20°-25° C. for about 15 hours, the reaction was stopped by adding 5 ml of isopropanol. The reaction products were partitioned between ethyl acetate and 1 molar hydrochloric acid. The organic phase was then separated, dried and evaporated down. Yield: 2.2 g of a crude product oil.

reactant | ethyl 3,3-biscarbethoxy-5-oxo-hexanecarboxylate | 0.047 mol, 14.3 g | C(=O)(OCC)C(CCC(=O)OCC)(CC(C)=O)C(=O)OCC | C15H24O7
reactant | sodium hydride | [H-].[Na+]
reactant | isopropanol | 5 ml | C(C)(C)O | C3H8O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 5,5-Biscarbethoxy-cyclohexane-1,3-dione | C(=O)(OCC)C1(CC(CC(C1)=O)=O)C(=O)OCC | C12H16O6
